US06252084B1
5-Methoxy-2-methyl-1-tetradecyl-1H-indole-3-acetic acid. A solution of 1.60 g (3.6 mmol) of 5-methoxy-2-methyl-1-tetradecyl-1H-indole-3-acetic acid ethyl ester and 10 mL of 1N NaOH in 25 mL of MeOH was stirred 16 hours, made acidic with 1N HCl, and the precipitate filtered valve 1.36 g (90% yield) of 5-methyl-2-methyl-1-tetradecyl-1H-indole-3-acetic acid, mp, 105-107° C.

reactant | 5-Methoxy-2-methyl-1-tetradecyl-1H-indole-3-acetic acid | COC=1C=C2C(=C(N(C2=CC1)CCCCCCCCCCCCCC)C)CC(=O)O | C26H41NO3
reactant | 5-methoxy-2-methyl-1-tetradecyl-1H-indole-3-acetic acid ethyl ester | 3.6 mmol, 1.60 g | C(C)OC(CC1=C(N(C2=CC=C(C=C12)OC)CCCCCCCCCCCCCC)C)=O | C28H45NO3
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 25 mL | CO | CH4O
product | 5-methyl-2-methyl-1-tetradecyl-1H-indole-3-acetic acid | 1.36 g, 90% yield | CC=1C=C2C(=C(N(C2=CC1)CCCCCCCCCCCCCC)C)CC(=O)O | C26H41NO2
